US03962224
To a stirring solution of p-methoxybenzyl α-thioformamido-diethylphosphonoacetate (114 mg., 0.3 mmole) in acetone (1.5 ml) is added powdered potassium carbonate (124 mg, 0.9 mmole). The resulting mixture is stirred for 5 minutes at room temperature and under a nitrogen atmosphere, then treated with a solution of 1-acetoxy-3-chloro-2-propanone (48 mg, 0.32 mmole) in acetone (0.5 ml). After having been sitrred for 3 hours at room temperature, the mixture is filtered to remove the salts which are washed with acetone. The combined filtrate and washings are evaporated in vacuo to a dark oil. The residue is dissolved in CCl4 (6 ml), washed with aqueous phosphate (1 ml of 1M dipotassium phosphate + 2 ml water) and water (2 × 3 ml)., dried over magnesium sulfate, and evaporated in vacuo to give crude p-methoxybenzyl 5-acetoxy-methyl-6H-1,3-thiazine-4-carboxylate (106 mg) as an orange oil.

reactant | p-methoxybenzyl α-thioformamido-diethylphosphonoacetate | 0.3 mmole, 114 mg | C(=S)NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(OCC)OCC | C15H22NO6PS
reactant | potassium carbonate | 0.9 mmole, 124 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-acetoxy-3-chloro-2-propanone | 0.32 mmole, 48 mg | C(C)(=O)OCC(CCl)=O | C5H7ClO3
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | p-methoxybenzyl 5-acetoxy-methyl-6H-1,3-thiazine-4-carboxylate | 106 mg | C(C)(=O)OC1=C(N=C(SC1)C)C(=O)OCC1=CC=C(C=C1)OC | C16H17NO5S
